US04734416
1.9 Grams of 5-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril and 0.24 g of sodium hydride are dispersed in 40 ml of xylene and heated for 1 hour under refluxing conditions. Then the temperature of the bath is lowered to 130° C. and 1.40 g of 3,4,5-trimethoxybenzoyl chloride are added gradually and heated for 8 hours under refluxing condition. Xylene is removed from the reaction mixture by distillation, then the residue is poured into 80 ml of water and extracted with chloroform. The chloroform layer is washed with water, dried and chloroform is removed by distillation. The residue is recrystallized from ethanol to obtain 1.5 g of 5-[2-(3,4,5-trimethoxybenzoyloxy)-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless crystals with a melting point of 125°-127° C.

reactant | 5-[2-hydroxy-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCN(CC1)C1=CC=CC=C1 | C22H27N3O3
reactant | sodium hydride | 0.24 g | [H-].[Na+]
reactant | 3,4,5-trimethoxybenzoyl chloride | 1.40 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-[2-(3,4,5-trimethoxybenzoyloxy)-3-(4-phenylpiperazinyl)propoxy]-3,4-dihydrocarbostyril | 1.5 g | COC=1C=C(C(=O)OC(COC2=C3CCC(NC3=CC=C2)=O)CN2CCN(CC2)C2=CC=CC=C2)C=C(C1OC)OC | C32H37N3O7
